US06251925B1
3′-Nitro-[1,1′-biphenyl]-3-carboxylic acid methyl ester as a brown solid (2.28 g);
n.m.r. δ values include 3.96 (s, 3 H), 7.57 (t, 1 H), 7.64 (t, 1 H), 7.81 (d, 1 H), 7.94 (d,1 H), 8.09 (d, 1 H), 8.23 (dd, 1 H), 8.30 (s, 1 H), 8.48 (t, 1 H), m.p., 88-90° C.; from methyl 3-bromobenzoate (2.0 g), tetrakis(triphenylphosphine)palladium(0) (348mg) and 3-nitrophenylboronic acid (1.9 g).

reactant | methyl 3-bromobenzoate | 2.0 g | BrC=1C=C(C(=O)OC)C=CC1 | C8H7BrO2
reactant | 3-nitrophenylboronic acid | 1.9 g | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
catalyst | tetrakis(triphenylphosphine)palladium(0) | 348mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3′-Nitro-[1,1′-biphenyl]-3-carboxylic acid methyl ester | COC(=O)C=1C=C(C=CC1)C1=CC(=CC=C1)[N+](=O)[O-] | C14H11NO4
